US07846960B2
(4-Hydroxy-2-methyl-phenyl)-carbamic Acid Tert-butyl Ester
Di-tert-butyl dicarbonate (21.3 g, 97.4 mmol) is added to a solution of 4-amino-m-cresol (10.0 g, 81.2 mmol), triethylamine (13.6 mL, 97.4 mmol) and methylene chloride (150 mL) at room temperature and the contents are stirred for 2 h. The mixture is washed with saturated aqueous citric acid and brine, and is dried over anhydrous sodium sulfate. The crude product is purified by flash chromatography (20 to 40% EtOAc/heptane) to afford the title compound (5.9 g, 33%) as a white solid. ES/MS m/e 222.0 (M−1).

reactant | Di-tert-butyl dicarbonate | 97.4 mmol, 21.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-amino-m-cresol | 81.2 mmol, 10.0 g | NC=1C(=CC(=CC1)O)C | C7H9NO
reactant | triethylamine | 97.4 mmol, 13.6 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | (4-Hydroxy-2-methyl-phenyl)-carbamic Acid Tert-butyl Ester | 5.9 g, 33% | C(C)(C)(C)OC(NC1=C(C=C(C=C1)O)C)=O | C12H17NO3
